US05021443
25 ml of carbon disulfide are added to 35.2 g of 2-(4-chlorophenylmethylamino)-5-fluoroaniline, prepared in Example 8, dissolved in 500 ml of ethanol. The mixture is refluxed for 12 hours and allowed to return to room temperature. After standing for a few hours, the crystals are filtered off and washed with ethanol and then with isopropanol and ether to give 33 g of 1-(4-chlorophenylmethyl)-2-mercapto-5-fluorobenzimidazole in the form of crystals melting at 215° C.

reactant | carbon disulfide | 25 ml | C(=S)=S | CS2
reactant | 2-(4-chlorophenylmethylamino)-5-fluoroaniline | 35.2 g | ClC1=CC=C(C=C1)CNC1=C(N)C=C(C=C1)F | C13H12ClFN2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-(4-chlorophenylmethyl)-2-mercapto-5-fluorobenzimidazole | 33 g | ClC1=CC=C(C=C1)CN1C(=NC2=C1C=CC(=C2)F)S | C14H10ClFN2S
